US07615646B2
10. Synthesis of 6-(1,2-dimethyl-6,8-disulfo-1H-benzo[e]indol-1-yl)hexanoic acid
(5,7-Disulfo-2-naphthyl)hydrazinium chloride (2.0 g), 7-methyl-8-oxononanoic acid (1.5 g) and acetic acid (15 ml) were heated from 80-140° C. for a total of 24 hrs. After evaporation of the solvent under vacuum, the residue was triturated with 2-propanol to give a pink solid. This solid was collected by filtration, washed with 2-propanol, then excess diethyl ether and dried under vacuum over phosphorus pentoxide. Yield of crude product=1.96 g. This was purified as required by preparative HPLC (RPC18. Water/MeCN/TFA) to give pure product. 1H-nmr (D2O) δ 0.25-0.4 (1H, broad m), 0.5-0.65 (1H, broad m), 1.00 (2H, m), 1.25 (2H, m), 1.78 (3H, s), 2.06 (2H, t), 2.35-2.5 (1H, broad m), 2.65-2.8 (1H, broad m), 2.90 (3H, s), 8.05 (1H, d), 8.58 (1H, d), 8.70 (1H, d) and (8.97 (1H, d). MS (LCMS) MH+470. Acc. Mass: MH+470.0931 (−2.6 ppm for C20H24NO8S2).

reactant | (5,7-Disulfo-2-naphthyl)hydrazinium chloride | 2.0 g | [Cl-].S(=O)(=O)(O)C1=C2C=CC(=CC2=CC(=C1)S(=O)(=O)O)[NH2+]N
reactant | 7-methyl-8-oxononanoic acid | 1.5 g | CC(CCCCCC(=O)O)C(C)=O | C10H18O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 6-(1,2-dimethyl-6,8-disulfo-1H-benzo[e]indol-1-yl)hexanoic acid | CC1(C(=NC=2C=CC3=C(C12)C=C(C=C3S(=O)(=O)O)S(=O)(=O)O)C)CCCCCC(=O)O | C20H23NO8S2
